US08633237B2
To (S)-N-(5-(chloromethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (0.160 mmol, 46 mg) in THF (1 mL) was added methyl 3-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-5-(trifluoromethyl)benzoate (0.160 mmol, 50.5 mg), Bromo(N-succinimidyl)bis-(triphenylphosphine)palladium(II) (7.99 μmol, 6.46 mg) and sodium carbonate (1.000 mmol, 0.5 mL). The reaction was heated to 100° C. for 10 minutes by microwave irradiation before diluting with DCM and filtering through a hydrophobic frit. The solvent was removed in vacuo before redissolving in MeCN (500 μL) and purifying by reverse phase preparative chromatography to give (S)-methyl 3-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate (23.2 mg, 31.9%). MS (ESI): m/z [M+H]+ 456.0

reactant | (S)-N-(5-(chloromethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.160 mmol, 46 mg | ClCC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C13H18ClNO2S
reactant | methyl 3-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-5-(trifluoromethyl)benzoate | 0.160 mmol, 50.5 mg | CC1(COB(OC1)C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F)C | C14H16BF3O4
reactant | sodium carbonate | 1.000 mmol, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-methyl 3-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate | 23.2 mg, 31.9% | CC(C)S(=O)(=O)N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C22H24F3NO4S
